US05051422
N-(2-Methoxyethyl)-N-(4-nitrophenyl)-2-propenamide
In a manner similar to Preparation 3, react N-(2-methoxyethyl)-4-nitrobenzenamine with propenoyl chloride to obtain the title compound.

reactant | N-(2-methoxyethyl)-4-nitrobenzenamine | COCCNC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O3
reactant | propenoyl chloride | C(C=C)(=O)Cl | C3H3ClO
product | N-(2-Methoxyethyl)-N-(4-nitrophenyl)-2-propenamide | COCCN(C(C=C)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O4
